US05106845
A flask containing 1-methyl-2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide (9.80 g, 3.60×10-2 mole) and 2,2-diphenylethylamine (7.49 g, 3.80×10-2 mole) was immersed in an oil bath which had been preheated to ca. 155° C. The reaction was stirred at between 150°-170° C. for 45 minutes. The resulting yellow glass was dissolved in methanol. Most of the methanol was evaporated at reduced pressure and isopropanol was added. The evaporation was continued, being stopped periodically for the addition of small portions of isopropanol. A solid forms which was collected by filtration affording a colorless solid. This was dissolved in a two phase mixture of 50% aqueous NaOH (60 ml) and CH2Cl2 (100 ml). After stirring overnight, the CH2Cl2 layer was separated. The aqueous alkaline layer was extracted with CH2Cl2 (2×). The CH2Cl2 layers were combined, washed with H2O (2×), washed with saturated aqueous NaCl, and dried over anhydrous Na2SO4. The drying agent was removed by filtration and the filtrate was evaporated at reduced pressure leaving a foam which was dissolved in methanol (40 ml). This solution was cooled to 0° C. before being treated with a methanolic solution of HCl. The methanol was partially evaporated and isopropanol was added. The evaporation was continued, being stopped periodically for the addition of small portions of isopropanol. A solid formed and the flask was placed in the refrigerator. After several hours, the product was collected by filtration. Crystallization from isopropanol afforded 2-(2,2-diphenylethylamino)-1-methyl-1,4,5,6-tetrahydropyrimidine hydrochloride as a colorless solid: 2.66 g (22%), m.p. 155°-157° C.

reactant | 1-methyl-2-methylthio-1,4,5,6-tetrahydropyrimidine hydroiodide | 3.60×10-2 mole, 9.80 g | I.CN1C(=NCCC1)SC
reactant | 2,2-diphenylethylamine | 3.80×10-2 mole, 7.49 g | C1(=CC=CC=C1)C(CN)C1=CC=CC=C1 | C14H15N
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
solvent | NaOH | 60 ml | [OH-].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 40 ml | CO | CH4O
product | 2-(2,2-diphenylethylamino)-1-methyl-1,4,5,6-tetrahydropyrimidine hydrochloride | Cl.C1(=CC=CC=C1)C(CNC=1N(CCCN1)C)C1=CC=CC=C1 | InChI=1S/C19H23N3.ClH/c1-22-14-8-13-20-19(22)21-15-18(16-9-4-2-5-10-16)17-11-6-3-7-12-17;/h2-7,9-12,18H,8,13-15H2,1H3,(H,20,21);1H
